US04251528
1,2-Dihydro-1-oxophthalazin-4-ylacetic acid (2.0 g.) was added to a solution of sodium hydroxide (0.9 g.) in methanol (50 ml.). A clear solution was obtained on slight warming, which was treated with 4-bromobenzyl bromide (2.6 g.). The mixture was then heated under reflux for 3 hours and then evaporated. The residue was treated with water (60 ml.) and the solution obtained was extracted with ether (3×60 ml.). The aqueous phase was then acidified to pH 2 with concentrated hydrochloric acid and the acid mixture extracted with ethyl acetate (150 ml.). The extracts were washed with water (50 ml.), dried (MgSO4) and evaporated. The solid obtained was recrystallised from a 1:4 v/v mixture of ethyl acetate and petrol (60-80) to give 2-(4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetic acid (0.6 g.), m.p. 179°-181° C.

reactant | 1,2-Dihydro-1-oxophthalazin-4-ylacetic acid | 2.0 g | O=C1NN=C(C2=CC=CC=C12)CC(=O)O | C10H8N2O3
reactant | sodium hydroxide | 0.9 g | [OH-].[Na+]
reactant | 4-bromobenzyl bromide | 2.6 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetic acid | 0.6 g | BrC1=CC=C(CN2C(C3=CC=CC=C3C(=N2)CC(=O)O)=O)C=C1 | C17H13BrN2O3
